US07495007B2
Preparation of intermediate of E/Z-6-chloro-3-[5-chloro-2-(3-hydroxy-propoxy)-benzylidene]-1,3-dihydro-indol-2-one
5-Chloro-2-(3-hydroxy-1-propoxy)-benzaldehyde (8 g, 37 mmol) and 6-chlorooxindole (6.2 g, 37 mmol) were mixed in anhydrous methanol (20 mL). Then pyrrolidine (3 mL, 37 mmol) was added slowly at r.t. The mixture was heated to 70° C. for 3 h and cooled to room temperature. The precipitate was collected by filtration to give title compound as a yellow solid (Yield: 11.8 g).

reactant | 5-Chloro-2-(3-hydroxy-1-propoxy)-benzaldehyde | 37 mmol, 8 g | ClC=1C=CC(=C(C=O)C1)OCCCO | C10H11ClO3
reactant | 6-chlorooxindole | 37 mmol, 6.2 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 37 mmol, 3 mL | N1CCCC1 | C4H9N
solvent | methanol | 20 mL | CO | CH4O
product | Z-6-chloro-3-[5-chloro-2-(3-hydroxy-propoxy)-benzylidene]-1,3-dihydro-indol-2-one | Yield: 11.8 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OCCCO | C18H15Cl2NO3
